US05965559
Using an analogous procedure to that described in Example 32, 4-chloropyrimidine hydrochloride was reacted with ethyl piperidine-4-carboxylate to give ethyl 1-(4-pyrimidinyl)piperidine-4-carboxylate in 46% yield.

reactant | 4-chloropyrimidine hydrochloride | Cl.ClC1=NC=NC=C1
reactant | ethyl piperidine-4-carboxylate | N1CCC(CC1)C(=O)OCC | C8H15NO2
product | ethyl 1-(4-pyrimidinyl)piperidine-4-carboxylate | 46% yield | N1=CN=C(C=C1)N1CCC(CC1)C(=O)OCC | C12H17N3O2
